US04374248
3-Amino-4-[4-(2-guanidinothiazol-4-yl)butylamino]-1,2,5-thiadiazole 1-oxide
When a methanolic solution of 3,4-dimethoxy-1,2,5-thiadiazole 1-oxide is successively treated with 4-(2-guanidinothiazol-4-yl)butylamine [prepared according to the procedure described in U.S. Pat. No. 4,165,377] and excess anhydrous ammonia according to the general procedure described in Example 35, the title compound is thereby produced.

reactant | 3,4-dimethoxy-1,2,5-thiadiazole 1-oxide | COC1=NS(N=C1OC)=O | C4H6N2O3S
reactant | 4-(2-guanidinothiazol-4-yl)butylamine | N(C(=N)N)C=1SC=C(N1)CCCCN | C8H15N5S
reactant | ammonia | N | H3N
product | 3-Amino-4-[4-(2-guanidinothiazol-4-yl)butylamino]-1,2,5-thiadiazole 1-oxide | NC1=NS(N=C1NCCCCC=1N=C(SC1)NC(=N)N)=O | C10H16N8OS2
